US05602276
A solution of paraformaldehyde (4.0 g, 0.13 mol), ethanolamine (6 mL, 0.097 mol), diisopropylphosphite (17 g, 0.1 mol) and 50 ml of isopropanol was stirred at 120° C. for 16 hours. The solution was concentrated to dryness and 17 ml of 50% NaOH was added. The solution was heated at reflux for 16 h, cooled to room temperature and concentrated under vacuum. Water (100 mL) was added to homogenize the mixture. The reaction was analyzed by 31P NMR in D2O at pH=0.8. N-(2-Hydroxylethyl)aminomethylphosphonic acid was obtained in 33% yield.

reactant | paraformaldehyde | 0.13 mol, 4.0 g | C=O | CH2O
reactant | ethanolamine | 0.097 mol, 6 mL | C(O)CN | C2H7NO
reactant | diisopropylphosphite | 0.1 mol, 17 g | C(C)(C)OP(OC(C)C)[O-]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N-(2-Hydroxylethyl)aminomethylphosphonic acid | 33% yield | OCCNCP(O)(O)=O | C3H10NO4P
